US06143907
A 500 mL round-bottomed flask was charged with toluene (100 mL) and (1S-trans)-Methyl 1-(1,3-benzodioxol-5-yl)-2,3-dihydro-3-oxo-5-propoxy-1H-indene-2-carboxylate (11.8 g, 0.032 mol). At 10° C., 60% NaH (1.9 g, 0.048 mol) was added portionwise over 0.5 h and the mixture warmed to 40° C. for 1 h. Upon cooling to 0° C., disulfuryl fluoride was added (3.45 mL, 0.0.032 mol) dropwise over 15 minutes while maintaining the temperature below 10° C. Continue to stir the reaction mixture at room temperature for 1.5 h and cool to 0° C. Add H2O (150 mL) dropwise to keep the temperature below 5° C. followed by the addition of glacial acetic acid (150 mL). Warm the reaction mixture to room temperature and add THF (3 L) and H2O (300 mL). Separate the two phases, wash the organic phase with H2O (2×300 mL) and concentrate to a thick slurry. Add iPr2O (1 L) and with vigorous stirring cool the slurry to -15° C. After 1 h, filter the slurry and wash the filter cake with cold iPr2O (-15° C., 1 L). Dry the product to a constant weight to afford (S)-Methyl-1-(1,3-benzodioxol-5-yl)-3-[(fluorosulfonyl)oxy]5-propoxy-1H-indene-2-carboxylate as a pale white solid (9.5 g, 67%): 1H NMR δ 7.15 (d, J=8.9 Hz, 1 H), 7.05 (s, 1 H), 6.95 (dd, J=2.3, 8.4 Hz, 1H), 6.7 (m, 2 H), 6.45 (s, 1 H), 5.9 (m, 2 H), 4.85 (s, 1 H), 3.95 (t, J=6.5 Hz, 2 H), 3.8 (s, 3 H), 1.8 (quintet, J=7.8 Hz, 2 H), 1.05 (t, J=7.4 Hz, 3 H).

reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | (1S-trans)-Methyl 1-(1,3-benzodioxol-5-yl)-2,3-dihydro-3-oxo-5-propoxy-1H-indene-2-carboxylate | 0.032 mol, 11.8 g | O1COC2=C1C=CC(=C2)[C@@H]2[C@H](C(C1=CC(=CC=C21)OCCC)=O)C(=O)OC | C21H20O6
reactant | NaH | 0.048 mol, 1.9 g | [H-].[Na+]
reactant | disulfuryl fluoride | O=S(=O)(OS(=O)(=O)F)F | F2O5S2
solvent | H2O | 300 mL | O | H2O
solvent | THF | 3 L | C1CCOC1 | C4H8O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 150 mL | O | H2O
product | (S)-Methyl-1-(1,3-benzodioxol-5-yl)-3-[(fluorosulfonyl)oxy]5-propoxy-1H-indene-2-carboxylate | 9.5 g, 67% | COC(=O)C=1[C@H](C2=CC=C(C=C2C1OS(=O)(=O)F)OCCC)C1=CC2=C(OCO2)C=C1 | C21H19FO8S
